US07652022B2
[4-(6-Hydroxy-2-mercapto-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester
A mixture of 4-(4-tert-butoxycarbonylamino-phenyl)-3-oxo-butyric acid ethyl ester (10.5 g, 32.7 mmol), thiourea (2.5 g, 32.7 mmol) and potassium tert-butoxide (8.3 g, 71.9 mmol, 2.2 equiv) in butan-1-ol (30 mL) is heated to 50° C. (oil bath temperature) for 23 h, under an argon atmosphere. The resulting yellow suspension is diluted with butan-1-ol (30 mL), neutralized by addition on 1N HCl (65 mL), diluted with H2O (20 mL) and extracted with CHCl3 (2×100 mL). The organic phase is dried (Na2SO4), filtered (washing the filter cake with copious amount of CHCl3) and concentrated in vacuo. After silica gel (300 g) column chromatography purification (CHCl3/MeOH, 90/10), the product is treated with CH2Cl2 (200 mL). The resulting suspension is allowed to stir at rt for 20 min, then diluted with hexane (200 mL) and filtered through a glass sintered funnel. The white residue is washed with a mixture (120 mL) of CH2Cl2/hexane (11, v/v) and dried in vacuo to afford the title compound: ES-MS: 334.0 [M+H]+; single peak at tR=7.04 min (System 2); Rf=0.34 (CHCl3/MeOH, 90/10).

reactant | 4-(4-tert-butoxycarbonylamino-phenyl)-3-oxo-butyric acid ethyl ester | 32.7 mmol, 10.5 g | C(C)OC(CC(CC1=CC=C(C=C1)NC(=O)OC(C)(C)C)=O)=O | C17H23NO5
reactant | thiourea | 32.7 mmol, 2.5 g | NC(=S)N | CH4N2S
reactant | potassium tert-butoxide | 71.9 mmol, 8.3 g, 2.2 equiv | CC(C)([O-])C.[K+]
reactant | HCl | 1N, 65 mL | Cl | ClH
solvent | butan-1-ol | 30 mL | C(CCC)O | C4H10O
solvent | butan-1-ol | 30 mL | C(CCC)O | C4H10O
solvent | H2O | 20 mL | O | H2O
product | [4-(6-Hydroxy-2-mercapto-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC1=NC(=NC(=C1)O)S)=O | C16H19N3O3S
